US04381304
In the same manner, but replacing 3-(ethoxycarbonyl)4,9-dihydro-4,9-dioxo-1H-cyclohepta[b]pyridine-1-acetic acid ethyl ester with an equivalent amount of either 3-(ethoxycarbonyl)-4,9-dihydro-6-(N-methylacetylamino)-4,9-dihydro-1H-cyclohepta[b]pyridine-1-acetic acid ethyl ester, 6-(acetylamino)-4,9-dihydro-4,9-dioxo-1H-cyclohepta[b]pyridine-3-carboxylic acid ethyl ester or 6-chloro-3-(ethoxycarbonyl)-4,9-dihydro-4,9-dioxo-1H-cyclohepta[b]pyridine-1-acetic acid ethyl ester, gave the same product, namely 3-carboxy-4,9-dihydro-6-hydroxy-4,9-dioxo-1H-cyclohepta[b]pyridine-1-acetic acid (I; R1 =COOH and R2 =6-OH); mp>250° C. (after recrytallization from acetone); nmr (DMSO-d6) δ5.5 (s, 2H), 7.5 (d, H), 8.3 (d, 1H),8.9 (s, 1H); ir (Nujol*) 2900, 1743, 1694 cm-1 ; uv λ max (MeOH) 341 nm (ε12,500), 237 (32,000); Anal Calcd for C13H9NO7 : C, 53.62% H, 3.12% N, 4.81%; Found: C, 53.22% H, 3.05% N, 4.73%.

reactant | 3-(ethoxycarbonyl)4,9-dihydro-4,9-dioxo-1H-cyclohepta[b]pyridine-1-acetic acid ethyl ester | C(C)OC(CN1C2=C(C(C(=C1)C(=O)OCC)=O)C=CC=CC2=O)=O | C17H17NO6
reactant | 6-(acetylamino)-4,9-dihydro-4,9-dioxo-1H-cyclohepta[b]pyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(C2=C(NC1)C(C=CC(=C2)NC(C)=O)=O)=O | C15H14N2O5
reactant | 6-chloro-3-(ethoxycarbonyl)-4,9-dihydro-4,9-dioxo-1H-cyclohepta[b]pyridine-1-acetic acid ethyl ester | C(C)OC(CN1C2=C(C(C(=C1)C(=O)OCC)=O)C=C(C=CC2=O)Cl)=O | C17H16ClNO6
product | 3-carboxy-4,9-dihydro-6-hydroxy-4,9-dioxo-1H-cyclohepta[b]pyridine-1-acetic acid | C(=O)(O)C=1C(C2=C(N(C1)CC(=O)O)C(C=CC(=C2)O)=O)=O | C13H9NO7
